US06664265B2
Tert-butyl 2-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate (14.45 g, 33.6 mmol) was dissolved in 50 mL of 2M HCl in EtOH and the mixture was heated to reflux with stirring. After 3 h, the reaction was cooled to room temperature and treated with ether (100 mL). The HCl salt of the product was collected by vacuum filtration The free base was made by dissolving the hydrochloride salt in 75 mL of water and treating with concentrated NH4OH until pH 12 was reached. The aqueous suspension was extracted with CH2Cl2 (4×50 mL). The combined organic layers were dried over Na2SO4 and concentrated to give a thick orange oil. The oil was dissolved in MeOH (100 mL), treated with 2 g of activated charcoal and heated to reflux. After 2 h, the mixture was filtered through a pad of Celite and rinsed with portions of MeOH. The filtrate was concentrated to yield 1-[2-(2-aminoethoxy)ethyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a sticky orange solid.

reactant | Tert-butyl 2-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate | 33.6 mmol, 14.45 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(OC(C)(C)C)=O)COCC | C22H31N5O4
reactant | ether | 100 mL | CCOCC | C4H10O
reactant | charcoal | 2 g | C | CH4
solvent | HCl | 2M, 50 mL | Cl | ClH
solvent | EtOH | CCO | C2H6O
solvent | MeOH | 100 mL | CO | CH4O
product | 1-[2-(2-aminoethoxy)ethyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C17H23N5O2
